US06664260B2
5-Chloro-4-nitrotetrazolo[1,5-a]quinoline (28.86 g, 0.11 mol), dichloromethane (600 ml), and triethylamine (21.14 ml, 0.11 mol) were combined and the resulting solution was chilled to 0° C. 2-(3-Pyridin-3-ylpropoxy)ethylamine (22.9 g, 0.13 mol) was added dropwise. The reaction was allowed to slowly warm to room temperature, then stirred at room temperature for 1 hour and finally at reflux for 2 hours. The reaction was cooled to room temperature and then quenched with water (200 ml). The phases were separated and the aqueous layer was extracted with dichloromethane (3×50 ml). The combined organic fractions were washed with brine (100 ml), dried (Na2SO4), filtered and concentrated to yield a yellow solid. The solid was slurried in ethanol (150 ml) and filtered to provide 34.3 g of 4-nitro-N-[2-(3-pyridin-3-ylpropoxy)ethyl]tetrazolo[1,5-a]quinolin-5-amine.

reactant | 5-Chloro-4-nitrotetrazolo[1,5-a]quinoline | 0.11 mol, 28.86 g | ClC1=C(C=2N(C3=CC=CC=C13)N=NN2)[N+](=O)[O-] | C9H4ClN5O2
reactant | dichloromethane | 600 ml | ClCCl | CH2Cl2
reactant | triethylamine | 0.11 mol, 21.14 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(3-Pyridin-3-ylpropoxy)ethylamine | 0.13 mol, 22.9 g | N1=CC(=CC=C1)CCCOCCN | C10H16N2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-nitro-N-[2-(3-pyridin-3-ylpropoxy)ethyl]tetrazolo[1,5-a]quinolin-5-amine | 34.3 g | [N+](=O)([O-])C=1C=2N(C3=CC=CC=C3C1NCCOCCCC=1C=NC=CC1)N=NN2 | C19H19N7O3
